US08497278B2
2-(4-chlorophenyl)-3-((5-(pyridin-2-yl)-4H-1,2,4-triazol-3-yl)methyl)imidazo[1,2-a]pyridine (230)
A mixture of 2-(2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)acetohydrazide (0.55 mmol, 1.0 eq) in DMF (1-2 ml) and picolinimidamide hydrochloride (1.5 eq) was heated at 120° C. for 3 h. The mixture was cooled to rt, treated with sat. NaHCO3 (5 ml), extracted with CH2Cl2 (10 ml). The organic solution was dried with Na2SO4, evaporated under vacuum. The crude product was purified by HPLC. M/e+ 387 for C21H16ClN6 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ 9.11 (d, J=1.4 Hz, 1H), 8.56 (d, J=3.7 Hz, 1H), 8.36 (d, J=6.2 Hz, 2H), 7.77 (d, J=8.4 Hz, 2H), 7.70 (dt, J=8.4, 2.9 Hz, 2H), 7.36 (m, 2H), 6.99 (m, 2H), 4.64 (s, 2H) ppm.

reactant | 2-(2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)acetohydrazide | 0.55 mmol, 1.0 eq | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC(=O)NN | C15H13ClN4O
reactant | picolinimidamide hydrochloride | 1.5 eq | Cl.N1=C(C=CC=C1)C(N)=N
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 1-2 ml | CN(C)C=O | C3H7NO
product | 2-(4-chlorophenyl)-3-((5-(pyridin-2-yl)-4H-1,2,4-triazol-3-yl)methyl)imidazo[1,2-a]pyridine | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NN=C(N1)C1=NC=CC=C1 | C21H15ClN6
